US06107458
A solution of Methyl 4-n-hexyloxybenzoate (2.00 g) and hydrazine hydrate (4.24 g) in ethanol (10 ml) was refluxed for 6 hours. After cooling, the reaction mixture was poured into water. The precipitate was collected by filtration, washed with water and dried over P2O5 under reduced pressure to give N-(4-n-hexyloxybenzoyl)hydrazine (1.96 g).

reactant | Methyl 4-n-hexyloxybenzoate | 2.00 g | C(CCCCC)OC1=CC=C(C(=O)OC)C=C1 | C14H20O3
reactant | hydrazine hydrate | 4.24 g | O.NN
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(4-n-hexyloxybenzoyl)hydrazine | 1.96 g | C(CCCCC)OC1=CC=C(C(=O)NN)C=C1 | C13H20N2O2
